Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([N+:2](=[C:3]([C:5](=[O:6])[H:11])[H:10])[O-:4])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3](=[O:4])[H:10])[C:5](=[O:6])[H:11])([H:7])([H:8])[H:9],52.523149921843
[C:1]([C@@:2]1([C:6]#[C:7][H:15])[C:3]([H:11])([H:13])[C:4]1=[C:5]([H:12])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]#[C:5][H:14])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10],86.80258107453398
[C:1]([C@@:2]([O:3][H:11])([C:4]#[C:5][H:12])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([C:6]#[N:7])[C:4]([O:3][H:11])=[C:5]1[H:12])([H:8])([H:9])[H:10],62.518000272167704
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]([H:15])([H:16])[H:17])([C:6]([H:18])([H:19])[H:20])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:4]([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])[H:10])([H:7])([H:8])[H:9].[C:3]([H:11])([H:12])([H:13])[H:14],88.2783088864717
[N:1]([C:2](=[O:3])[N:4]([C:5](=[O:6])[H:10])[H:9])([H:7])[H:8]>>[H:8][H:10].[N:1](=[C:2]=[O:3])[H:7].[N:4](=[C:5]=[O:6])[H:9],61.800295566862296
[C:1]([C:2](=[C:3]([H:12])[H:13])[H:11])([H:8])([H:9])[H:10].[C:4]1([O:5][H:14])=[C:7]([H:17])[C:6]1([H:15])[H:16]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10],56.1517925000058
[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5](=[O:6])[H:12])([H:7])([H:8])[H:9]>>[C:1](=[N:2][C@:3]([N:4]([H:10])[H:11])([C:5](=[O:6])[H:12])[H:9])([H:7])[H:8],94.6195297488856
[C:1]([N:2]([C@@:3]([C:4]([O:5][H:15])([H:13])[H:14])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C@:3]([C:4]([C:6]#[N:7])([H:13])[H:14])([O:5][H:15])[H:12])[H:11])([H:8])([H:9])[H:10],66.4814528960499
[C:1]([C:2]1([H:11])[C:3]([C:4]([H:13])([H:14])[H:15])=[C:5]1[C:7]([H:19])([H:20])[H:21])([H:8])([H:9])[H:10].[C:6]([H:12])([H:16])([H:17])[H:18]>>[C:1]([C@@:2]1([H:11])[C@:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C:5]1([C:6]([H:16])([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:8])([H:9])[H:10],65.5033822725846
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5](=[O:6])[H:12])[H:11])[H:7]>>[O:1]([O:6][C@:5]1([H:12])[C@@:2]2([H:8])[C:3]([H:9])([H:10])[C@:4]21[H:11])[H:7],112.41355894250499
[C:1]([O:6][C@@:7]1([H:13])[C:2]2=[C:5]([H:12])[C@:4]1([H:11])[O:3]2)([H:8])([H:9])[H:10]>>[C:1]([C@@:2]12[O:3][C@@:4]3([H:11])[C@:5]1([H:12])[O:6][C@@:7]23[H:13])([H:8])([H:9])[H:10],12.153206762494207
[C:1]([C:2]([C:3](=[O:4])[N:5]([C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:11])[C@:3]([N:5]([C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[O:4]1)([H:7])([H:8])[H:9],91.51258153775869
[N:1]([C:2]#[C:7][H:10])([C:6](=[O:5])[H:9])[H:8].[N:3]#[N:4]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],51.146894556623394
[C:1]([c:2]1[c:3]([H:11])[o:4][c:5]([O:6][H:12])[n:7]1)([H:8])([H:9])[H:10]>>[C:1]([C-:2]=[N+:7]=[C:5]([O+:4]=[C-:3][H:11])[O:6][H:12])([H:8])([H:9])[H:10],140.035202472526
[C-:3]1=[O+:6][C:5]([H:10])([H:11])[C:4]1([H:8])[H:9].[N:1](=[C:2])[H:7]>>[N:1]#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[C:5]([H:10])([H:11])[O:6]1,3.53215577887039
